US07842816B2
Step A: Preparation of 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester:
Dimethylacetamide (30 mL) was added to a mixture of 6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2-hydroxyethoxy)-amide (3 g, 6.555 mmol), BOC-L-valine (1.710 g, 7.866 mmol), HOBT.H2O (1.004 g, 6.555 mmol) and, TEA (0.929 g, 9.177 mmol) in a 500 mL RBF with a magnetic stirrer and nitrogen line. After 5 minutes, EDCl (1.759 g, 9.177 mmol) saw added to the brown solution in the 500 mL RBF. The mixture was stirred overnight at room temperature. The reaction mixture was added slowly to 210 mL of deionozied water with mechanical stirring. The white slurry was stirred for 1 hour, filtered through a medium fritted funnel. The cake was washed with about 100 mL of water and pulled air through the cake for 10-15 minutes. Tert-butyl methyl ether (70 mL) saw added to the cake and stirred with a spatula. The vacuum filtration was continued. The solids were dried under vacuum at 50° C. to give 2 g of the product containing about 80% of the undesired isomer. The t-butyl methyl ether layer was concentrated to a foam (2.18 g) enriched in the desired product comprising a mixture of isomers.

reactant | 6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2-hydroxyethoxy)-amide | 6.555 mmol, 3 g | OCCONC(=O)C1=CC2=C(N=CN2C)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C17H15BrClFN4O3
reactant | BOC-L-valine | 7.866 mmol, 1.710 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 9.177 mmol, 1.759 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 210 mL | O | H2O
solvent | Dimethylacetamide | 30 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | 6.555 mmol, 1.004 g | O | H2O
product | 2-tert-butoxycarbonylamino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester | 2 g | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOC(C(C(C)C)NC(=O)OC(C)(C)C)=O)Cl | C27H32BrClFN5O6
